US09304126B2
tert-Butyl 3-(aminomethyl)-4-(2-(2-hydroxyethoxy)ethyl)piperazine-1-carboxylate
To a solution of tert-butyl 3-cyano-4-(2-(2-hydroxyethoxy)ethyl)piperazine-1-carboxylate, prepared as described in the previous step, (9.9 g, 33.1 mmol) in methanol (20 mL) was added Raney Ni (15 g). The reaction solution was stirred at room temperature overnight under hydrogen atmosphere (50 psi). The mixture was filtered and concentrated to provide the product, which was used in the next step without additional purification.

reactant | tert-butyl 3-cyano-4-(2-(2-hydroxyethoxy)ethyl)piperazine-1-carboxylate | C(#N)C1CN(CCN1CCOCCO)C(=O)OC(C)(C)C | C14H25N3O4
solvent | methanol | 20 mL | CO | CH4O
catalyst | Ni | 15 g | [Ni] | Ni
product | tert-Butyl 3-(aminomethyl)-4-(2-(2-hydroxyethoxy)ethyl)piperazine-1-carboxylate | NCC1CN(CCN1CCOCCO)C(=O)OC(C)(C)C | C14H29N3O4
